US05270309
To a suspension of methyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate (1 g) in 4(2-hydroxyethyl)-morpholine (10 ml) at room temperature was added p-toluene sulphonic acid (20 mg), and the reaction mixture was warmed to 80° C. for 3 hours. The cooled mixture was treated with diethylether (50 ml), the resulting precipitate collected and dissolved in methanol (10 ml) and treated with hydrogen chloride in ethylacetate (2 ml of 5M). The mixture was stirred for 30 minutes and the resulting precipitate collected and recrystallised from ethanol-water to give 2-(4-morpholinyl)ethyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrochloride (0.45 g), m.p. 233° C. (dec). δ (360 MHz, D2O) 3.35 (4H, bs, morpholinyl-3,5-H), 3.55 (2H, t, CH2N), 4.06 (4H, bs, morpholinyl-2,6-H), 4.85 (2H, t, CO2CH2), 6.73 (1H, s, 3-H), 7.25 (1H, d, 6-H) and 7.40 (1H, d, 8-H). (Found: C, 46.94; H, 4.23; N, 6.84, Cl, 25.92%. C16H16Cl2N2O4. HCl. 0.4H2O requires C, 46.73; H, 4.26; N, 6.81; Cl, 25.86%).

reactant | methyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate | 1 g | ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OC)=O | C11H7Cl2NO3
reactant | p-toluene sulphonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethylether | 50 ml | C(C)OCC | C4H10O
reactant | 4(2-hydroxyethyl)-morpholine | 10 ml | OCCN1CCOCC1 | C6H13NO2
product | 2-(4-morpholinyl)ethyl 5,7-dichloro-4-oxo-1,4-dihydroquinoline-2-carboxylate hydrochloride | 0.45 g | Cl.ClC1=C2C(C=C(NC2=CC(=C1)Cl)C(=O)OCCN1CCOCC1)=O | InChI=1S/C16H16Cl2N2O4.ClH/c17-10-7-11(18)15-12(8-10)19-13(9-14(15)21)16(22)24-6-3-20-1-4-23-5-2-20;/h7-9H,1-6H2,(H,19,21);1H
